US06528504B2
(R)-2-Hydroxymethyl-1-(4-dimethylaminophenethyl)piperidine (452 mg, 1.72 mmol) was dissolved in 10 ml of dichloromethane. Triethylamine (226 mg, 2.26 mmol) and methanesulfonyl chloride (260 mg, 2.26 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred under cooling on ice for 1 hour and then at room temperature for 14 hours. The reaction liquid was distributed in dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(4-dimethylaminophenethyl) homo-piperidine in the form of a light yellow oil (470 mg, 97%).

reactant | (R)-2-Hydroxymethyl-1-(4-dimethylaminophenethyl)piperidine | 1.72 mmol, 452 mg | OC[C@@H]1N(CCCC1)CCC1=CC=C(C=C1)N(C)C | C16H26N2O
reactant | Triethylamine | 2.26 mmol, 226 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.26 mmol, 260 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-3-chloro-1-(4-dimethylaminophenethyl) homo-piperidine | Cl[C@H]1CN(CCCC1)CCC1=CC=C(C=C1)N(C)C | C16H25ClN2
